US07241789B2
h). 3-(5-{2-[N-(4,5-Dihydro-1H-imidazol-2-yl)-aminooxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid
3-(5-{2-[N-(4,5-dihydro-1H-imidazol-2-yl)-aminooxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester (0.24 g, 0.55 mmol) was dissolved in 70% methanol/water (4 mL). Lithium hydroxide monohydratate (0.70 g, 4.67 mmol) was added and the reaction was stirred for 16 h at room temperature under an argon atmosphere. The solution was neutralized with 1.0 N HCl (4.67 mL) and the solvent was evaporated under vacuum. The crude mixture was purified via column chromatography with silica gel, eluting with 10% methanol/dichloromethane to afford the title compound (74% yield). 1H NMR (DMSO-d6) δ 7.68 (d, 1H, J=3.2 Hz), 7.42 (d, 1H, J=9.0 Hz), 7.20–7.34 (m, 5H), 7.05 (d, 1H, J=2.5 Hz), 6.75 (dd, 1H, J=2.5, 9.0 Hz), 6.40 (d, 1H, J=3.0 Hz), 5.96 (m, 1H), 4.16 (m, 4H), 3.59 (br s, 4H), 3.36 (m, 2H). Mass Spectrum (LCMS, ESI) calculate for C22H25N4O4 409.2 (M+H); found 409.2.

reactant | 3-(5-{2-[N-(4,5-dihydro-1H-imidazol-2-yl)-aminooxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester | 0.55 mmol, 0.24 g | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCONC=1NCCN1)=O | C24H28N4O4
reactant | Lithium hydroxide | [OH-].[Li+]
reactant | HCl | 1.0 N, 4.67 mL | Cl | ClH
solvent | methanol water | 4 mL | CO.O
product | 3-(5-{2-[N-(4,5-Dihydro-1H-imidazol-2-yl)-aminooxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid | 74% yield | N1C(=NCC1)NOCCOC=1C=C2C=CN(C2=CC1)C(CC(=O)O)C1=CC=CC=C1 | C22H24N4O4
